Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
admission for observation following cystgastrostomy
 
Major Surgical or Invasive Procedure:
EUS with cystgastrostomy and stent placent
 
History of Present Illness:
Mr ___ is a pleasant ___ yo M with hx sever pancreatitis 
(thought due to Bactrim use) with walled of necrosis, splenic 
vein thrombosis, HTN, recent admission (___) for pancreatits, 
now admitted for observation following EUS with cystgastrostomy 
for walled off pancreatic necrois.  During the procedure, an 
axios stent was placed and two double pigtail stents were placed 
through the axios stent.  Course was complicated by asx 
bradycardia in the PACU for which he received glycopyrolate. 

On the floor, pt expresses frustration about his course over the 
last months and regret over having taken the Bactrim without 
further consideration of potential side effects.  Since his last 
dc from ___, he states that he was admitted to ___ for 
"esophageal spasm and dysphagia" and was treated with 
electrolyte and fluid repletion and discharged.  Since that 
discharge, he has been asx.  He states that he had some lip 
swelling and throat pain after the procedure but otherwise has 
no complaints including N/V/abd pain.  He states that he 
recently stopped his home losartan for low BPs with systolics in 
the 100s.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.

 
Past Medical History:
(per chart, confirmed with pt
severe pancreatitis and walled-off necrosis
splenic vein thrombosis 
hypertension
GERD
seasonal allergies
 
Social History:
___
Family History:
No family history of pancreatitis. Father with HTN, mother with 
CHF and bipolar disease.  Aunt and grandmother with breast ca, 
uncle with lung ca.
 
 
Physical Exam:
Vitals: 98.0 148/75 4918 100% RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, mild R-sided 
swelling of upper lip
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, no clubbing, cyanosis or edema
Neuro: CNII-XII and strength grossly intact.  AAOx3

 
Pertinent Results:
___ 02:00PM BLOOD WBC-7.7 RBC-4.46* Hgb-12.2* Hct-38.6* 
MCV-87 MCH-27.4 MCHC-31.6* RDW-16.1* RDWSD-50.6* Plt ___
___ 02:00PM BLOOD Plt ___
___ 02:00PM BLOOD ___ PTT-35.0 ___
___ 02:00PM BLOOD UreaN-20 Creat-0.9 Na-140 K-4.3 Cl-102 
HCO3-28 AnGap-14
___ 02:00PM BLOOD ALT-17 AST-19 AlkPhos-104 Amylase-436* 
TotBili-0.4 DirBili-0.1 IndBili-0.3
___ 02:00PM BLOOD Lipase-263*

STUDIES: cytology pending

EUS
EUS was notable for a 20 cm area of walled off pancreatic 
necrosis
•Successful EUS guided cystgastrostomy using an Axios stent with 
placement of two ___ Fr x 5 cm double pigtail stents into the 
cyst cavity

EKG: sinus brady with LAD

CT Abd/Pel notable for
- Necrotizing pancreatitis with a pancreatic fluid collection 
measuring 14.3 x 6.1 x 6.1 cm, slightly larger since ___, consistent with walled-off necrosis.  There is a large 
amount of air within the necrotic pancreas which is likely 
secondary to cigastrostomy vein communication with the stomach, 
however superimposed infection cannot be excluded. 
- Poor visualization of the proximal SMV.  Although this may 
simply represent poor opacification due to mass effect from 
large pancreatic fluid collection, proximal vein thrombosis 
cannot be excluded. 

- Inflammatory change and free fluid tracks along the greater 
omentum and 
pools along the superior aspect of the transverse colon, 
measuring up to 5.9 x 1.6 x 2.6 cm.  The adjacent colon appears 
unremarkable. 

- Areas of normally enhancing pancreas are seen in near the 
pancreatic head, body, and tail, as detailed above. 

- Known chronic splenic vein thrombosis. 

Mesenteric Angiogram performed for noted blood in pancreatic 
cyst cavity on follow-on EGD, the angiogram revealed the 
following:
Celiac arteriogram demonstrates irregular appearance of the 
gastroduodenal 
artery without evidence of pseudoaneurysm or active 
extravasation. 

Gastroduodenal artery arteriogram in 2 projections demonstrates 
slightly 
irregular appearance of the superior pancreaticoduodenal artery, 
but with no evidence of active bleeding. 

Dorsal pancreatic artery arteriogram demonstrates an 
approximately 5 mm 
pseudoaneurysm arising from a branch of the dorsal pancreatic 
artery. 

Dorsal pancreatic artery branch #1 arteriogram demonstrates 
filling of the 
pseudoaneurysm. 

Dorsal pancreatic artery branch #2 arteriogram demonstrates 
filling of the 
pseudoaneurysm. 

Embolization of 2 branches of the dorsal pancreatic artery and 
post 
embolization arteriograms demonstrates no filling of the 
pseudoaneurysm post embolization. 

Splenic artery arteriogram demonstrates no active extravasation 
and no 
retrograde flow to the area of the pseudoaneurysm. 

Superior mesenteric arteriogram demonstrates no active 
extravasation. 
  
Overall Imression:  
  
Pseudoaneurysm arising from a branch of the dorsal pancreatic 
artery 
successfully treated with coil embolization. 
  
RECOMMENDATION(S):  If the patient develops further bleeding, 
repeat 
angiography can be considered, to evaluate for refilling of the 
pseudoaneurysm. Additional angiography can also be performed of 
the 
gastroduodenal artery, which was slightly irregular in 
appearance, but did not have active extravasation on today's 
study. 

Repeat EGD for repeat necrosectomy after embolization: stable 
without evidence of recurrent blood accumulation in cyst sac 

 
Brief Hospital Course:
Pleasant ___ yo M with hx of pancreatitis due to Bactrim use, 
complicated by walled off necrosis and splenic vein thrombosis 
who was admitted for scheduled EUS and cystgastrostomy. He was 
found to have a necrosis of the pancreatic cyst, he developed 
sepsis after the procedure and was discovered during this 
admission to have pseudoaneurysm of the dorsal pancreatic artery 
for which he underwent coiling this admission

Pancreatitis: now s/p EUS/cystgastrostomy with stent placement.  
Pancreatitis most likely due to Bactrim use, no hx EtOH use and 
triglycerides WNL.

Necrotic Pancreatic cyst: he is s/p multiple necrosectomies, he 
was discharged to home on continued regimen of cipro and flagyl 
for 7more days per GI recommendations

He developed sepsis after his initial procedure for which he was 
started on broad spectrum antibiotics with improvement in his 
fever curve white count and hemodynamic instability. He 
underwent repeat EGD after his bout of sepsis and was found to 
have blood within the cyst cavity. He was discussed with the 
___ service and monitored closely on concert with the surgical 
team, he remained clinically stable and did successfully undergo 
mesenteric angiography and embolization of two branches of the 
dorsal pancreatic artery with no evidence of blood extravasation 
after embolization

His HCT wa largely stable throughout his hospitalization, his 
warfarin was held for his procedure but and kept off after 
discovery of bleeding pseudoaneurysm of the pancreatic artery

He did undergo a repeat EGD for planned necrosectomy after his 
embolizaytion, this was done ___, this was uneventful with no 
concern for repeat bleeding, his diet was advanced post 
prodecure after which he was able to tolerate po intake without 
difficulty

He was monitored overnight and discharged to home the next day 
with specific instructions to 
-f/u cytology/fluid analysis (call Dr. ___ ___ in 7 days for the pathology results)
-Patient will follow up with Dr. ___ in clinic in three 
weeks.
- His warfarin was discontinued as recommended by 
Gastroenterology given noted pseudoaneurysms for which he is s/p 
clipping this admission
 
HTN: pt reports recent low BPs at home, these were not resumed 
prior to his discharge, he will follow-up with his PCP for 
further instruction

splenic vein thrombosis: hold Coumadin for now in setting of 
recent bleeding pseudoaneurysm of the dorsal pancreatic artery

bradycardia: asx, likey due to anesthesia resolved prior to 
discharge

lip edema: focal area of edema, likely due to mild trauma from 
procedure.  No SOB or bilaterality to suggest anaphylaxis or 
angioedema. resolved at the time of discharge

GERD: cont omeprazole

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Creon 12 3 CAP PO TID W/MEALS 
2. Omeprazole 20 mg PO DAILY 
3. Loratadine 10 mg PO Frequency is Unknown 
4. Warfarin 5 mg PO 6X/WEEK (___) 
5. Warfarin 7.5 mg PO 1X/WEEK (MO) 
6. HYDROmorphone (Dilaudid) 4 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Creon 12 3 CAP PO TID W/MEALS 
2. Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0
3. HYDROmorphone (Dilaudid) 4 mg PO Q6H:PRN pain 
4. Loratadine 10 mg PO DAILY 
5. Carbamide Peroxide 6.5% ___ DROP AD BID Duration: 4 Days 
RX *carbamide peroxide 6.5 % 1 drop in each ear twice a day 
Refills:*0
6. MetRONIDAZOLE (FLagyl) 500 mg PO TID Duration: 7 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*21 Tablet Refills:*0
7. Florajen3 (L.acidoph-B.lactis-B.longum) 1  oral DAILY 
Duration: 7 Days 
RX *L.acidoph-B.lactis-B.longum [Florajen3] 460 mg (7.5-6-1.5 
billion cell) 1 capsule(s) by mouth daily Disp #*7 Capsule 
Refills:*0
8. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth q8h prn Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis
Necrotic Pancreatic cyst
Dorsal pancreatic artery pseudo-aneurysm x ___ s/p coiling 
Sepsis due to pancreatic cyst infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for a scheduled EUS and cystgastrostomy to 
drain the pancreatic cyst. You developed an infection of the 
area around the cyst. You were treated with antibiotics. 

You underwent repeat EGD which revealed blood within the 
pancreatic cyst cavity. You underwent angiography to investigate 
the blood noted in the cyst cavity and this revealed 2 areas of 
pseudo-aneurysm in specific branches of your pancreatic artery, 
these areas were coiled by the interventional radiology team 
without complication.  

Your repeat EGD after the coiling was uncomplicated, you were 
recommended for advancement in your diet to a mechanical soft 
texture by the Gastroenterologist. You should follow-up within 
two weeks from discharge. Please call Dr ___ below 
to make the appointment

Because of your pseudoaneurysm issues, the Gastroenterologist 
does not recommend continuation of blood thinners, your Coumadin 
was stopped this admission

Do NOT take any acid blocker medications such omeprazole, 
Prilosec or other acid blocker medication without first checking 
with your Gastroenterologist
 
Followup Instructions:
___